US07982054B2
(3R)-N-{(2S)-3-[(2-methoxyphenyl)sulfanyl]-2-methylpropyl}-3,4-dihydro-2H-1,5-benzoxathiepin-3-amine (1)
6.5 g (35.9 mmol) of (R)-3,4-dihydro-2H-1,5-benzoxathiepin-3-amine and 11 g (30 mmol) of (S)-3-(2-methoxyphenyl-sulfanyl)-2-methylpropyl 4-methylbenzenesulfonate in 33 ml of toluene are introduced into a three-necked flask under an inert atmosphere. 6 g (60 mmol) of triethylamine are added and then the reaction mixture is heated with stirring at 105° C. for 24 hours. After returning to ambient temperature, 33 ml of toluene are added. The organic phase is washed twice with 66 ml of demineralised water and is then decolourised by stirring for one hour in the presence of 2 g of Black CXV. After concentrating under reduced pressure, driving-off with 33 ml of ethanol 100 is carried out. The title product is obtained in the form of a yellow oil (8.85 g; 79%).

reactant | (R)-3,4-dihydro-2H-1,5-benzoxathiepin-3-amine | 35.9 mmol, 6.5 g | O1C[C@H](CSC2=C1C=CC=C2)N | C9H11NOS
reactant | (S)-3-(2-methoxyphenyl-sulfanyl)-2-methylpropyl 4-methylbenzenesulfonate | 30 mmol, 11 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H](CSC1=C(C=CC=C1)OC)C | C18H22O4S2
reactant | triethylamine | 60 mmol, 6 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 33 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 33 ml | C1(=CC=CC=C1)C | C7H8
product | (3R)-N-{(2S)-3-[(2-methoxyphenyl)sulfanyl]-2-methylpropyl}-3,4-dihydro-2H-1,5-benzoxathiepin-3-amine | COC1=C(C=CC=C1)SC[C@H](CN[C@@H]1COC2=C(SC1)C=CC=C2)C | C20H25NO2S2
